US04803211
To a mixture of 340 mg of 2-[(4-acetyl-3-hydroxy-2propylbenzyl)thio]-5-mercapto-1,3,4-thiadiazole, 150 mg of anhydrous potassium carbonate and 5 ml of N,N-dimethylformamide was added 220 mg of ethyl p-(bromomethyl)benzoate followed by stirring at room temperature for 3 hours. The reaction mixture was diluted with 30 ml of toluene. After washing with water and drying over anhydrous magnesium sulfate, the system was concentrated under reduced pressure. The residue was applied to silica gel column chromatography. Elution with a mixture of toluene-ethyl acetate (9:1) gave 0.38 g of oily ethyl p-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thiomethyl]benzoate.

reactant | 2-[(4-acetyl-3-hydroxy-2propylbenzyl)thio]-5-mercapto-1,3,4-thiadiazole | 340 mg | C(C)(=O)C1=C(C(=C(CSC=2SC(=NN2)S)C=C1)CCC)O | C14H16N2O2S3
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | ethyl p-(bromomethyl)benzoate | 220 mg | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl p-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thiomethyl]benzoate | 0.38 g | C(C)(=O)C1=C(C(=C(CSC2=NN=C(S2)SCC2=CC=C(C(=O)OCC)C=C2)C=C1)CCC)O | C24H26N2O4S3
